* C:\Users\emmah\OneDrive\Desktop\All\ITBA\2024 1Q\Análisis de Señales y Sistemas Digitales\TP-1_ASSD_Muestro_G4\Circuito_TP1.asc
XU1 N018 N008 vcc vee N008 TL082
RF1 Vsig N007 {r1}
Rf2 N007 N018 {r2}
CF2 N018 0 {c2}
CF1 N007 N008 {c1}
V1 Vsig 0 SINE(0.5 0.5 50k) AC 1
XU2 vcc vee 0 supply Vp=15 Vn=15
XU4 N020 N010 vcc vee N010 TL082
RF3 N019 N009 {r12}
RF4 N009 N020 {r22}
CF4 N009 N010 {c12}
XU6 N022 N012 vcc vee N012 TL082
RF5 N021 N011 {r13}
RF6 N011 N022 {r23}
CF5 N022 0 {c23}
CF6 N011 N012 {c13}
XU3 N008 N019 vcc vee buffer
XU5 N010 N021 vcc vee buffer
XU7 N012 Vsig_fil vcc vee buffer
C7 N023 0 560p
R7 sH 0 10k
C8 sH 0 1p
XU17 N027 Ve Vcc Vee Vo6 Vee LM311/TI
R1 Vo6 N027 100k
R2 N027 0 100k
R3 N025 Ve 21k
C1 Ve 0 100p
R4 Vcc Vo6 1k
XU18 N026 Ve Vcc Vee osci 0 LM311/TI
R5 Vcc osci 1k
R6 N025 Vo6 1k
D2 Vo6 N025 1N4148
R8 Vcc N026 5.6k
R9 N026 Vee 5.6k
XU19 N028 Ve Vcc Vee Vcc Vout_2 LM311/TI
R10 Vcc N028 5.6k
R11 N028 Vee 5.6k
R12 N028 osci 100k
R13 Vout_2 0 1k
R14 N026 osci 100k
XU8 Vsig_fil osci 0 vee N023 sH vcc LF398H
XU9 N024 0 Triangular Vpp=1 Freq=7.5k Voff=0 Sym=1
XU10 N013 N002 vcc vee N002 TL082
RF7 sH N001 {r1}
Rf8 N001 N013 {r2}
CF3 N013 0 {c2}
CF7 N001 N002 {c1}
XU11 N015 N004 vcc vee N004 TL082
RF9 N014 N003 {r12}
RF10 N003 N015 {r22}
CF8 N003 N004 {c12}
XU12 N017 N006 vcc vee N006 TL082
RF11 N016 N005 {r13}
RF12 N005 N017 {r23}
CF9 N017 0 {c23}
CF10 N005 N006 {c13}
XU13 N002 N014 vcc vee buffer
XU14 N004 N016 vcc vee buffer
XU15 N006 OUT vcc vee buffer
.model D D
.lib C:\Users\emmah\AppData\Local\LTspice\lib\cmp\standard.dio
.param r1= 1000 r2= 3300 c1= 9.37252963044761e-9 c2= 1.26633041302148e-10 r12= 1000 r22= 3300 c12= 3.42961110920421e-9 c22= 5.31302556815265e-10 r13= 1000 r23= 3300 c13= 2.44095363478539e-9 c23= 1.41827028406999e-9
* .ac dec 1000 14k 40k
.tran 0 1m 10u
* FILTRO ANTIALIASING
* SAMPLE AND HOLD
* OSCILATOR
* ANALOG SWITCH
* .ac dec 1000 1 1Meg
* FILTRO RECUPERADOR
.lib C:\Users\emmah\OneDrive\Desktop\All\ITBA\2024 1Q\Análisis de Señales y Sistemas Digitales\Lib_custom_ltspice\libreria\buffer.lib
.lib C:\Users\emmah\OneDrive\Desktop\All\ITBA\2024 1Q\Análisis de Señales y Sistemas Digitales\Lib_custom_ltspice\libreria\LTSpiceASSDLib.lib
.lib TCLib/LM311.lib
.lib TCLib/supply.lib
.lib TCLib/TL082.lib
.lib TCLib/triangular.lib
.backanno
.end
